* C:\Users\aitor\OneDrive\Msc Thesis\Chap2 Voltage clamp\Passive\cir\NoiseTIAFull.asc
In2 0 N002 I value=0 dc=0 dcvar=0 noise={4*k*T/gain}
XU1 N002 0 N003 NM18_noise ID={ID} IG={IG} W={W} L={L}
H1 out 0 N003 0 {gain}
R1 m 0 {Rm}
R2 m N001 {Rjm}
R3 N001 0 {Rs}
R6 N001 N002 {Ree}
C1 m 0 {Cm}
C2 m N001 {Cjm}
C4 N001 N002 {Ce}
In1 N002 N001 I value=0 dc=0 dcvar=0 noise={4*k*T/Ree}
In3 N001 0 I value=0 dc=0 dcvar=0 noise={4*k*T/Rs}
In5 m 0 I value=0 dc=0 dcvar=0 noise={4*k*T/Rm}
In4 N001 m I value=0 dc=0 dcvar=0 noise={4*k*T/Rjm}
R4 N002 0 {gain}
.lib SLiCAP.lib
.backanno
.end
